US05665730
2. 3-Hydroxymethyl-8-(2-methoxycarbonylamino-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine
2 g of 3-formyl-8-(2-methoxycarbonylamino-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine are suspended in 30 ml of methanol at RT, 0.2 g of sodium borohydride is added in portions, and the mixture is stirred at RT for 1 h. Subsequently, half the solvent is stripped off in vacuo, the residue is poured into ice-water, and the mixture is neutralized with a few drops of dilute hydrochloric acid and extracted four times with ethyl acetate. The collected organic phases are washed with water and dried over sodium sulfate. The solvent is stripped off in vacuo. The remaining yellowish residue completely crystallizes after some time. Recrystallization from ethyl acetate results in 1.3 g of the title compound of m.p. 170°-172° C.

reactant | 3-formyl-8-(2-methoxycarbonylamino-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 2 g | C(=O)C1=C(N=C2N1C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OC)C | C19H20N4O3
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | hydrochloric acid | a few drops | Cl | ClH
product | 3-Hydroxymethyl-8-(2-methoxycarbonylamino-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 1.3 g | OCC1=C(N=C2N1C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OC)C | C19H22N4O3
